US05534535
(±)-(1R*, 2S*, 3S*, 5S*)-3-(Acetoxymethyl)-5-(2,5,6-trichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate
(±)-(1R*, 2S*, 3S*, 5S*)-3-(Acetoxymethyl)-5-(5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate (850 mg, 1.92 mmol) in dry N,N-dimethylformamide (5 mL) was maintained at 95° C. while N-chlorosuccinimide (760 mg) was added in portions over 3 hours. Heating was continued for a total of 6 hours. Volatiles were removed in vacuo and the residue chromatographed on silica gel. Title compound was eluted with ethyl acetate:hexanes/3:7 as a yellow solid (160 mg, 17%), 1H-NMR consistent with structure and almost identical with that of title compound of Example 3.

reactant | 3-(Acetoxymethyl)-5-(5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | 1.92 mmol, 850 mg | C(C)(=O)OC1C(C(CC1N1C=NC2=C1C=C(C(=C2)Cl)Cl)COC(C)=O)OC(C)=O | C19H20Cl2N2O6
reactant | N-chlorosuccinimide | 760 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(Acetoxymethyl)-5-(2,5,6-trichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | C(C)(=O)OC1C(C(CC1N1C(=NC2=C1C=C(C(=C2)Cl)Cl)Cl)COC(C)=O)OC(C)=O | C19H19Cl3N2O6
